US08008505B2
36.3 [rac]-2-(4-Chloro-phenyl)-3-{1-cyclohexyl-2-[2-fluoro-4-(2H-tetrazol-5-yl)-phenoxy]-ethyl}-5,6-difluoro-2H-indazole
In analogy to the procedure described in example 31, [rac]-4-{2-[2-(4-Chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-2-cyclohexyl-ethoxy}-3-fluoro-benzonitrile was reacted with sodium azide in the presence of triethylamine hydrochloride in DMF to obtain the title compound as colorless oil. MS: m/e=553.3 [M+H+].

reactant | [rac]-4-{2-[2-(4-Chloro-phenyl)-5,6-difluoro-2H-indazol-3-yl]-2-cyclohexyl-ethoxy}-3-fluoro-benzonitrile | ClC1=CC=C(C=C1)N1N=C2C=C(C(=CC2=C1C(COC1=C(C=C(C#N)C=C1)F)C1CCCCC1)F)F | C28H23ClF3N3O
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | Cl.C(C)N(CC)CC
solvent | DMF | CN(C)C=O | C3H7NO
product | [rac]-2-(4-Chloro-phenyl)-3-{1-cyclohexyl-2-[2-fluoro-4-(2H-tetrazol-5-yl)-phenoxy]-ethyl}-5,6-difluoro-2H-indazole | ClC1=CC=C(C=C1)N1N=C2C=C(C(=CC2=C1C(COC1=C(C=C(C=C1)C=1N=NNN1)F)C1CCCCC1)F)F | C28H24ClF3N6O
